data/oMe_Silver.jsonl
{"reaction_id": "NR-061_1-C(C)(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(C)(C)C)C(=O)CCCC(=O)O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["O(C(C)(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C)(C)C)C(=O)[CH-]CCCC(=O)O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(C)(C)C)C(=O)C1C([O-])(O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(C)(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
{"reaction_id": "NR-227_1-c2ccccc2_2-COCC","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(c2ccccc2)c1ccccc1","NC(C(OCOCC)(OCOCC))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(c2ccccc2)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)C(OCOCC)(OCOCC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(c2ccccc2)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(c2ccccc2)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
